US04599361
E and Z benzyl 3-(ethoxycarbonyl)-2-(2-methylpropyl)propenoate (25.0 g., 0.09 mol.) was dissolved in ethanol and hydrogenated at 50° C. under 37.5 psi in the presence of 5% palladium on charcoal (2.5 g). The resultant mixture was filtered through Celite and the solvent removed by evaporation in vacuo to yield 3-(ethoxycarbonyl)-2-(2-methylpropyl)propanoic acid as a mixture of isomers in the form of a thick oil.

reactant | benzyl 3-(ethoxycarbonyl)-2-(2-methylpropyl)propenoate | 0.09 mol, 25.0 g | C(C)OC(=O)C=C(C(=O)OCC1=CC=CC=C1)CC(C)C | C17H22O4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | 2.5 g | [Pd] | Pd
product | 3-(ethoxycarbonyl)-2-(2-methylpropyl)propanoic acid | C(C)OC(=O)CC(C(=O)O)CC(C)C | C10H18O4
